US04602030
2-(2,4-Dichlorobenzyloxy)-1-(1-imidazolyl)-3-(4-tert-butylphenylthio)propane
A dry 250-ml round bottom flask equipped with stir bar, addition funnel and N2 inlet was charged with dry dimethoxyethane (25 ml) and sodium hydride [60% (0.79 g, 0.0265 moles)]. The resulting slurry was cooled to -35° C. (with an external dry ice and acetone bath); then 1-(1-imidazolyl)-3-(4-tert-butylphenylthio)-propan-2-ol, 5.0 g (0.0172 moles), in 10 ml dry dimethoxyethane was added dropwise. After the addition was complete, the reaction mixture was allowed to warm to about -20° to -10° C. and was stirred at that temperature until no more H2 evolution was apparent. The reaction mixture was then cooled to -20° C. and 3.7 g (0.0189 mole) 2,4-dichlorobenzyl chloride were added very slowly. After the addition was complete, the reaction mixture was allowed to come to room temperature and was allowed to stir overnight. The reaction mixture was poured into water and ice and then extracted with ethyl acetate (twice). The ethyl acetate extracts were combined and washed with water until neutral. The ethyl acetate phase was dried, filtered, and then concentrated to give an oil which was chromatographed to give 2.0 g of the above-identified product.

reactant | sodium hydride | 0.0265 moles, 0.79 g | [H-].[Na+]
reactant | dry ice | C(=O)=O | CO2
reactant | 1-(1-imidazolyl)-3-(4-tert-butylphenylthio)-propan-2-ol | N1(C=NC=C1)CC(CSC1=CC=C(C=C1)C(C)(C)C)O | C16H22N2OS
reactant | 2,4-dichlorobenzyl chloride | 0.0189 mole, 3.7 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2,4-Dichlorobenzyloxy)-1-(1-imidazolyl)-3-(4-tert-butylphenylthio)propane | 2.0 g | ClC1=C(COC(CN2C=NC=C2)CSC2=CC=C(C=C2)C(C)(C)C)C=CC(=C1)Cl | C23H26Cl2N2OS
